US04950674
N-[4-[3-[4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]propoxy]-phenyl]-N'-methylurea
To a solution of 4.5 g (0.01 mole) of 1-[3-(4-aminophenoxy)propyl]-α,α-bis(4-fluorophenyl)-4-piperidinemethanol in 50 ml of benzene was added dropwise a solution of 0.6 g (0.01 mole) of methylisocyanate in 10 ml of benzene. The mixture was stirred for 1 hr during which time a solid precipitated. The mixture was diluted with 25 ml of cyclohexane, the solid was collected by filtration and recrystallized from 2-propanol to yield 1.6 g (31%) of title compound as a white solid, mp 177°-178° C.

reactant | 1-[3-(4-aminophenoxy)propyl]-α,α-bis(4-fluorophenyl)-4-piperidinemethanol | 0.01 mole, 4.5 g | NC1=CC=C(OCCCN2CCC(CC2)C(O)(C2=CC=C(C=C2)F)C2=CC=C(C=C2)F)C=C1 | C27H30F2N2O2
reactant | methylisocyanate | 0.01 mole, 0.6 g | CN=C=O | C2H3NO
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | N-[4-[3-[4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]propoxy]-phenyl]-N'-methylurea | 1.6 g, 31% | FC1=CC=C(C=C1)C(C1CCN(CC1)CCCOC1=CC=C(C=C1)NC(=O)NC)(O)C1=CC=C(C=C1)F | C29H33F2N3O3
